US07655669B2
3-(4-Morpholinyl)-5-(trifluoromethyl)-benzonitrile
The title compound is prepared using an analogous method as described in Example 1.1, utilising 3-fluoro-5-(trifluoromethyl)-benzonitrile (Lancaster Synthesis GmbH) and morpholine (Fluka, Buchs, Switzerland), with a reaction temperature of 105° C. for 14 hours.

reactant | 3-fluoro-5-(trifluoromethyl)-benzonitrile | FC=1C=C(C#N)C=C(C1)C(F)(F)F | C8H3F4N
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 3-(4-Morpholinyl)-5-(trifluoromethyl)-benzonitrile | N1(CCOCC1)C=1C=C(C#N)C=C(C1)C(F)(F)F | C12H11F3N2O
